US04749791
A solution of 2.05 g (7 mmol) of 4-acetyl-11-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione in 30 ml of methanol was treated with 0.85 g (15.4 mmol) of sodium methanolate, stirred at room temperature for 2 hours, the reaction mixture was concentrated in vacuo, treated with water and extracted at pH 14 with chloroform. After drying the chloroform phase with sodium sulphate and distillation of the solvent in vacuo there was obtained 11-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione of melting point 142°-144°.

reactant | 4-acetyl-11-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione | 7 mmol, 2.05 g | C(C)(=O)N1C(CCC2=C(C(CCC1)=O)C=CC(=C2)Cl)=O | C15H16ClNO3
reactant | sodium methanolate | 15.4 mmol, 0.85 g | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 11-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione | ClC1=CC2=C(C(CCCNC(CC2)=O)=O)C=C1 | C13H14ClNO2
